US07276526B2
1-(2,4-Dichloro-phenyl)-cyclopropanecarboxylic acid amide
1-(2,4-Dichloro-phenyl)-cyclopropanecarbonitrile (2.1 g, 10 mmol) was dissolved in DMSO (10 ml) and the solution cooled to 0° C. using an ice bath. Potassium carbonate (0.2 g, 1.5 mmol) was then added, followed by commercial 30% aqueous hydrogen peroxide (2 mL). The reaction was then allowed to warm to room temperature with stirring over 1 h. Water (20 mL) was added and the 1-(2,4-dichloro-phenyl)-cyclopropanecarboxylic acid amide collected as a white solid. Yield: 2.1 g (90%).

reactant | 1-(2,4-Dichloro-phenyl)-cyclopropanecarbonitrile | 10 mmol, 2.1 g | ClC1=C(C=CC(=C1)Cl)C1(CC1)C#N | C10H7Cl2N
reactant | Potassium carbonate | 1.5 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 2 mL | OO | H2O2
reactant | Water | 20 mL | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-(2,4-Dichloro-phenyl)-cyclopropanecarboxylic acid amide | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)N | C10H9Cl2NO
